********************************
* Copyright:                   *
* Vishay Intertechnology, Inc. *
********************************
*27-Aug-2018
*ECN S18-0893, Rev. A
*File Name: SQD40061EL_PS.txt and SQD40061EL_PS.lib
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product datasheet. Designers should refer to the
*appropriate datasheet of the same number for guaranteed specification
*limits.
.SUBCKT SQD40061EL D G S 
M1 3 GX S S PMOS W= 22820000u L= 0.30u 
M2 S GX S D NMOS W= 22820000u L= 0.26u 
R1 D 3 3.485e-03 TC=4.243e-03,4.551e-06
CGS GX S 6.512e-09 
CGD GX D 3.181e-10 
RG G GY 3.6
RTCV 100 S 1e6 TC=5.963e-04,2.114e-06
ETCV GY GX 100 200 1 
ITCV S 100 1u 
VTCV 200 S 1 
DBD D S DBD 22820000u 
**************************************************************** 
.MODEL PMOS PMOS ( LEVEL = 3 TOX = 5e-8 
+ RS = 0 KP = 2.740e-06 NSUB = 4.489e+16 
+ KAPPA = 5.937e-03 NFS = 4.045e+11 
+ LD = 0 IS = 0 TPG = -1    )
*************************************************************** 
.MODEL NMOS NMOS ( LEVEL = 3 TOX = 5e-8 
+NSUB = 2.186e+16 IS = 0 TPG = -1    )
**************************************************************** 
.MODEL DBD D ( 
+FC = 0.1 TT = 5.979e-08 T_measured = 25 BV = 41
+RS = 3.568e-02 N = 1.009e+00 IS = 1.024e-13 
+EG = 8.468e-01 XTI = 1.000e+01 TRS1 = 1.058e-03
+CJO = 2.000e-11 VJ = 3.000e-01 M = 1.000e+00 ) 
.ENDS 
